US04282246
5-Phenylthiofuran-3-carboxylic Acid
In an open flask, thiophenol (2.86 g., 13 mmoles), cuprous oxide (1.86 g., 13 mmoles) and dimethyl formamide (30 ml.) were combined and heated in a 135° C. oil bath. The reaction mixture was allowed to cool slightly, 5-bromothiophene-3-carboxylic acid [2.5 g., 13 mmoles; Fournari et al., Bull. Chim. Soc. Fr., 4115 (1967)] in 50 ml. of dimethylformamide was added, and the mixture refluxed for 2 days. The reaction mixture was cooled, clarified by filtration, the filtrate evaporated to an oil, the oil triturated with 1 N hydrochloric acid, and gummy solids recovered by filtration and taken up in 1 N sodium hydroxide. The basic solution was extracted with ether, reacidified with conc. hydrochloric acid, product recovered by filtration, triturated with hexane and refiltered (912 mg., m.p. 97°-100° C., m/e 220). Recrystallization from methanol/water afforded purified 5-phenylthiofuran-3-carboxylic acid (439 mg., m.p. 101°-103° C.).

reactant | thiophenol | 13 mmoles, 2.86 g | C1(=CC=CC=C1)S | C6H6S
reactant | 5-bromothiophene-3-carboxylic acid | 13 mmoles, 2.5 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-Phenylthiofuran-3-carboxylic Acid | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)O | C11H8O2S
